US09255093B2
To a solution of 2-hydroxy-5-methylbenzaldehyde (2 g, 14.69 mmol) in 22 mL of DMF was added K2CO3 (4.06 g, 29.4 mmol) under N2 at room temperature. After the mixture was stirred for 10 min, ethyl 2-bromoacetate (1.625 mL, 14.69 mmol) was added. The reaction mixture was stirred at room temperature overnight, and filtered through Celite to remove solids. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel flash chromatography, 100% Heptane-20% Ethyl Acetate/80% Heptane, to give a white solid, ethyl 2-(2-formyl-4-methylphenoxy)acetate (2.5 g). LCMS retention time=1.19 minutes (LC method 3); MS (m+1)=222.9. 1H NMR (400 MHz, DMSO-d6) δ 1.20 (t, J=7.1 Hz, 3H), 2.28 (s, 3H), 4.17 (q, J=7.2 Hz, 2H), 4.95 (s, 2H), 7.08 (d, J=8.6 Hz, 1H), 7.45 (ddd, J=8.6, 2.5, 0.6 Hz, 1H), 7.51 (d, J=2.2 Hz, 1H), 10.41 (s, 1H).

reactant | 2-hydroxy-5-methylbenzaldehyde | 14.69 mmol, 2 g | OC1=C(C=O)C=C(C=C1)C | C8H8O2
reactant | K2CO3 | 29.4 mmol, 4.06 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromoacetate | 14.69 mmol, 1.625 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(2-formyl-4-methylphenoxy)acetate | 2.5 g | C(=O)C1=C(OCC(=O)OCC)C=CC(=C1)C | C12H14O4
